US06130234
4-Benzyl-4-hydroxy-1-(4-phenyl-3-butynyl)piperidine
A mixture of 1-mesyl-4-phenylbut-3-yne (300 mg, 1.34 mmol), 4-benzyl-4-hydroxypiperidine (307 mg, 1.61 mmol) and K2CO3 (555 mg, 4.02 mmol) in 15 mL of CH3CN is refluxed for 12 hr. The mixture is filtered and washed with EtOAc (3×20 mL). The filtrate is evaporated in vacuo and is purified by flash chromatography to give the product as an off-white solid (130 mg, 30%): mp 80-82° C.; 1H NMR (CDCl3) 1.50 (m, 3 H), 1.74 (m, 2 H), 2.41 (m, 2 H), 2.58 (m, 3 H), 2.75 (m, 5 H), 7.11-7.38 (m, 10 H).

reactant | 1-mesyl-4-phenylbut-3-yne | 1.34 mmol, 300 mg | S(=O)(=O)(C)CCC#CC1=CC=CC=C1 | C11H12O2S
reactant | 4-benzyl-4-hydroxypiperidine | 1.61 mmol, 307 mg | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
reactant | K2CO3 | 4.02 mmol, 555 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | 4-Benzyl-4-hydroxy-1-(4-phenyl-3-butynyl)piperidine | 130 mg, 30% | C(C1=CC=CC=C1)C1(CCN(CC1)CCC#CC1=CC=CC=C1)O | C22H25NO
